Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm very suicidal."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult
note:

"Ms. ___ is a ___ yo F with a history of depression and 
hypothyroidism with a history of 5 prior suicide attempts and 
who recently received ECT as outpatient in ___ who 
self-referred to ___ ED due to increasing thoughts of suicide 
with a plan to hang herself. 

She reports having a longstanding battle with depression with 
multiple prior attempts that have ended in hospitalizatons. Her 
most recent suicide attempt was in ___. She notes that this 
current presentation is the first time she has self-referred to 
the ED for a psychiatric reason, all of her previous
hospitalizations have been after attempts. Her symptoms of 
depression include depressed mood, fatigue, feelings of 
increased time spent in bed but decreased sleep (~6hr/night), 
anhedonia, guilt, hopelessness, and decreased appetite during 
the daytime, but increased eating at night. She denies weight 
loss. 

In terms of stressors prompting her referral, she notes many 
psychosocial factors that have contributed. She reports that she 
has been planning to break up with her boyfriend of ___ years, 
___. She notes that she feels that their personalities 
"don't mesh" and that she just thinks that they are not right 
for one another. She notes that he wants to get married and is 
not
accepting of her wanting to end the relationship. She had 
planned to move out at the end of the month, and has housing 
lined up. She has also had fights recently with her sister, 
___, as well as her daughter, and feels intense guilt over 
having hurt both of them in the past with her prior suicide 
attempts. She was house-sitting for her daughter on ___, 
when her daughter
returned home and had notably cold body language. Ms. ___ 
associates this with her daughter being angry for her past 
suicide attempts. She also has had strained relationships with 
her sister, who she notes recently "psychoanalyzed" her and 
noted that she has "commitment issues" that made her frustrated 
and angry. 

Psych ROS
Depression - as above
Mania - denies all manic symptoms including no decreased need 
for sleep, racing thoughts, grandiosity
Psychosis - denies AVH, paranoia, IOR
Anxiety - endorses some anxious thoughts, denies panic attacks, 
does not feel anxiety is a major problem for her as much as 
depression is
PTSD - patient would not answer questions about PTSD symtpoms 
despite repeated attempts, became overwhelmed. 

COLLATERAL: ___ (boyfriend), currently bedside, accompanied
patient into the ED. ___.
On interview with ___, he notes that they have been in a 
relationship for the past ___ years, though several weeks ago 
she had notified him that she planned to move out. He notes that 
life with her recently has been "unpredictable and emotional." 
He believes that suddenly a few weeks ago her mood decreased, 
beginning with little interest in sexual relations. She noted to 
him "I don't want sex, which is important to you so I should 
just
move out." He then responded to her that he loved her and wanted 
her with or without sexual relations. She continued to be 
"difficult to communicate" with, noting that they had one 
argument. He also notes one specific fight they had recently 
over how early they should leave for one of his medical 
appointments
during which he swore at her, however when he then apologized 
and asked to talk about it, she refused. He notes that he has 
been committed to the relationship and is still hopeful that it 
will work out. He had not been concerned for her safety noting 
that she is a rational thinker. Today, he recalls that she broke 
down in tears after he said to her that "we can do so much". She 
went to do her hair upstairs and came down and said to him that 
they needed to go to the hospital because she was having a 
depressive episode."

In the ED, the patient remained in good behavioral control 
without needing chemical or physical restraint. Medication 
provided while in ED is as follows:
___ 16:38 PO Ibuprofen 600 mg  

On interview today, patient endorses depressed mood, fatigue, 
decreased sleep, anhedonia, guilt, hopelessness, and decreased 
appetite during the daytime, but increased eating at night. She 
reports that she started to experience a worsening of her 
depressive symptoms approximately ___ months ago secondary to 
the above stated stressors. She said that she started 
experiencing the suicidal thoughts today, with the plan that she 
would hang herself in the woods after calling the police so that 
"no innocent bystander would have to find [her] body." She says 
that she continues to have these thoughts at the time of this
interview, but she stated that she felt safe on the inpatient 
unit and does not intend to act on these thoughts at this time. 
She contracted for her safety by agreeing to approach a staff 
member if her SI starts to worsen. She denies any violent 
ideations towards other. 

Of note, she mentioned that her previous bilateral ECT 
treatments were quite effective in treating her depressive 
symptoms, but she states that she is hesitant to try this again 
because she experienced significant memory problems with her 
previous treatments (short term memory problems for ___ months 
post
bilateral ECTx9). 
 
Past Medical History:
**PCP: Dr. ___
Herpes Simplex
___ disease with peripheral neuropathy in feet
Spondylolisthesis grade 2
Hospitalized with aseptic meningitis in ___ (normal ___
menopause at age ___
Brachial cleft cyst removed from neck in ___

 
Social History:
B/R: ___, then moved to ___, moved around 
several
times including ___ as a child. 
Family/Support: Has adult daughter with difficult relationship 
as
per HPI, is divorced, is currently in relationship with Apo who
she has been seeing for ___ years but who she reports trying to
break up with
Housing: Currently living with partner, intends to move back 
into
a former apartment she has learned is still available after they
break up
Education: Withdrew from ___, then attended nursing
program at ___ but dropped out of nursing school
due to concern that she would have difficulty remembering
medications
Employment: ___
Trauma: History of sexual assault while working at ___. In childhood, notes abuse while at a school in ___
(made brother eat vomited rice putting, they used corporal
punishment). Also reports mother was abusive throughout her
childhood. 
Access to weapons: denies
Spiritual: denies
 
Family History:
Mother: ___ Disorder
Father: Question of suicide in airplane crash
Sister: 1 minor attempt of suicide, anorexia/bulimia nervosa
Sister: ___ depression

 
Physical Exam:
VITAL SIGNS:
Temp 98.1 PO; BP 102/69; HR 58; 18 RR; oxygen sat 99%  

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
mild intention tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Appropriately interprets "the grass is always
greener on the other side" 
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old woman appearing stated age, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact,
significant psychomotor agitation
-Attitude: Cooperative, engaged, friendly
-Mood: "suicidal"
-Affect: Mood-congruent, dysphoric, constricted range,
appropriate to situation
-Speech: lowered rate and volume, and normal tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: SI stated as above, denies violent ideations
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Fair

Mental status on discharge:
facial expression: Friendly, smiling on approach
Behavior: Pleasant, cooperative, easily engaging
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "I am ready to go home ", brighter, no
irritability/angry outbursts
Thought process/content: Reality oriented, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions
Intellectual Functioning: Better concentration
Oriented: x4
Memory: grossly intact
Insight: Fair
judgment: Fair

 
Pertinent Results:
___ 11:45AM   GLUCOSE-88 UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 11:45AM   estGFR-Using this
___ 11:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:45AM   WBC-5.3 RBC-4.63 HGB-14.7 HCT-44.4 MCV-96 
MCH-31.7 MCHC-33.1 RDW-13.1 RDWSD-45.9
___ 11:45AM   NEUTS-68.2 ___ MONOS-3.8* EOS-0.4* 
BASOS-0.6 IM ___ AbsNeut-3.62 AbsLymp-1.42 AbsMono-0.20 
AbsEos-0.02* AbsBaso-0.03
___ 11:45AM   PLT COUNT-173
___ 03:44PM BLOOD Lipase-39
___ 03:44PM BLOOD Triglyc-196* HDL-64 CHOL/HD-2.7 
LDLcalc-70
___ 03:44PM BLOOD %HbA1c-4.3 eAG-77
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with a history of depression and 
hypothyroidism with a history of 5 prior suicide attempts and 
who recently received ECT as outpatient in ___ who 
self-referred to ___ ED due to increasing thoughts of suicide 
with a plan to hang herself. 

On initial interview for inpatient admission, the patient 
endorsed depressed mood, fatigue, decreased sleep, anhedonia, 
guilt, hopelessness, and decreased appetite during the daytime, 
but increased eating at night. MS exam was
significant for psychomotor agitation, dysphoric mood and 
congruent affect, and ongoing SI with plan to hang self. Patient 
initial presentation was consistent with severe recurrent ___ 
with SI. 

As such, inpatient psychiatric admission was indicated for acute 
stabilization, diagnostic clarification, psychopharmacologic 
adjustments/management as indicated, psychotherapeutic 
interventions, coordination with outpatient providers, and 
further aftercare management.

1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission. Ms. ___  was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) As above. The treatment team initially continued her home 
medications. However, given her mood symptoms and impulsive 
behavior, the treatment team began Lithium at 300mg BID and 
titrated up to 300mg daily and 600 QHS.  Risks and benefits of 
the medication were discussed with the patient and she was 
amenable to a trial of the medication.  

3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  

****We continued all her home meds. No changes
#)Hypothyroidism
---Continue Synthroid 50 mcg daily

#) Menopause HRT
---Continue Premarin 1.25 mg
---Continue Provera 2.5 mg 

#) Essential Tremor
---Continue Primidone 250 mg QHS

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ often attended 
these groups. Ms. ___ was visible on the milieu and 
appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the team to 
contact heroutpatient psychiatrist, ___, NP, and 
outpatient therapist, ___.  Both were provided with 
a summary of Ms. ___ presentation to the ___ ED/Deac 4 and 
an update of her progress since admission on Deac 4, and they 
provided collateral information and treatment recommendations.

Ms. ___ gave verbal and written permission for the team to 
contact her Sisters, who was also given an update on Ms. ___ 
progress while admitted and discharge plan.

6. INFORMED CONSENT: 
Medication: Lithium
---Intended effects/Benefits: treatment of thought disorder, 
mood stabilization, depression, anxiety
---Adverse effects/Risks: Drowsiness, nausea, akathisia, EPS, 
tremor, TD, QTc prolongation
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above). 
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and consented 
to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself. Ms. ___ static risk 
factors noted at that time include history of suicide attempts, 
lethality of previous attempts, chronic mental illness, history
of abuse/trauma, history of self-injurious behavior, family 
history of suicide/mental illness/substance use disorder, family 
history of suicide attempt, Caucasian ethnicity, elderly age, 
limited social supports, chronic medical illness.
The modifiable risk factors identified were as such: suicidal 
ideation with plan,
poorly controlled mental illness, hopelessness, insomnia, 
acutely stressful events, limited coping skills. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Ms. ___ is being discharged with many protective factors, 
including female gender, sense of responsibility to family, 
help-seeking behavior, outpatient providers, no chronic 
substance use, no access to lethal weapons, reality-testing 
ability. 

Patient demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning in the event that 
suicide or thoughts of self-harm returned (e.g. patient would 
call family, call psychiatrist, call ___, or present to the 
emergency room). Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely elevated 
risk of harm to self nor danger to others.

.
.
.
................................................................
For Reference:
STATIC RISK FACTORS
history of suicide attempts, lethality of recent attempt, 
chronic mental illness, recent discharge from an inpatient 
psychiatric unit, history of abuse/trauma, history of substance 
abuse, history of self-injurious behavior, history of violence, 
family history of suicide/mental illness/substance use disorder, 
family history of suicide attempt, male gender, Caucasian 
ethnicity, adolescent or elderly age, single relationship 
status, widowed, divorced, limited social supports, 
unemployment, homelessness, financial hardship, homosexual 
sexual orientation, identification as transgender individual, 
presence of a concurrent personality disorder, chronic pain 
syndrome, HIV positive status, chronic medical illness ()

MODIFIABLE RISK FACTORS
suicidal ideation with/without intent/plan, psychosis, 
disorganized and unpredictable behavior, command AH, 
impulsiveness, recklessness, aggression/agitation, active 
substance use disorder, acute intoxication, impulsivity, access 
to lethal weapons, medication noncompliance, poorly controlled 
mental illness, lack of engagement with outpatient treatment, no 
established outpatient providers, social withdrawal, poor 
reality testing, hopelessness, severe anxiety/panic attacks, 
insomnia, lack of purpose, active self-injurious behaviors, 
feeling trapped, decreased self-esteem, extreme narcissistic 
vulnerability, loss of executive function, thought constriction, 
polarized thinking, closed mindedness, psychic pain/turmoil, 
acutely stressful events, recent (financial/physical/personal) 
loss, limited coping skills

PROTECTIVE FACTORS
female gender, age, children in the home, sense of 
responsibility to family, married, employment, help-seeking 
behavior, life satisfaction, future-oriented viewpoint, strong 
social supports, lack of suicidal ideation, consistent 
outpatient follow-up, positive therapeutic relationship with 
outpatient providers, medication compliance, no prior suicide 
attempts/self-injurious behavior, spirituality, no chronic 
substance use, no access to lethal weapons, pets, 
reality-testing ability, ability to tolerate rejection, good 
coping skills, good problem-solving skills

Our prognosis of this patient is Fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 300 mg PO DAILY 
2. QUEtiapine Fumarate 50 mg PO QHS 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. PrimiDONE 250 mg PO QHS 
5. Provera (medroxyPROGESTERone) 2.5 mg oral DAILY 
6. Estrogens Conjugated 1.25 mg PO DAILY 

 
Discharge Medications:
1.  Lithium Carbonate 300 mg PO DAILY  
2.  Lithium Carbonate 600 mg PO QHS   
3.  BuPROPion 300 mg PO DAILY  
4.  Estrogens Conjugated 1.25 mg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  PrimiDONE 250 mg PO QHS  
7.  Provera (medroxyPROGESTERone) 2.5 mg oral DAILY  
8.  QUEtiapine Fumarate 25 mg PO QHS with plan to taper to 12.5 
mg nightly and then discontinue.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___
PTSD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___